### PR TITLE
Basic definitions and constructions for enriched category theory

### PR DESCRIPTION
**Pull request by umedaikiti**
I added the following.
- enriched natural transformation
- unit enriched category
- change-of-base construction
- opposite construction

### CODE REVIEW

**Comment by benediktahrens** [comment]
I have converted this PR from "draft" to "ready for review", so that I and others are able to comment.

File: UniMath/CategoryTheory/Enriched/ChangeOfBase.v [hunk 1]
```diff
@@ -0,0 +1,170 @@
...
+Proof.
+  use make_enriched_precat.
+  - use make_enriched_precat_data.
+    + exact A.
+    + intros x y.
+      exact (F (enriched_cat_mor x y)).
+    + intro x.
+      exact (lax_monoidal_functor_ϵ F · #F (enriched_cat_id _)).
+    + intros x y z.
+      exact (lax_monoidal_functor_μ F (_, _) · #F (enriched_cat_comp _ y _)).
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Enriched/ChangeOfBase.v:27]: This part of the construction should be split out into a separate definition. The proof of the axioms can then be made opaque using `Qed.` instead of `Defined.`.

File: UniMath/CategoryTheory/Enriched/ChangeOfBase.v [hunk 2]
```diff
@@ -0,0 +1,170 @@
...
+    apply lax_monoidal_functor_assoc.
+Defined.
+
+Definition change_of_base_enriched_functor {A B : enriched_precat Mon_V} (G : enriched_functor A B) : enriched_functor (change_of_base_enriched_precat A) (change_of_base_enriched_precat B).
+Proof.
+  use make_enriched_functor.
+  - use make_enriched_functor_data.
+    + exact G.
+    + intros x y.
+      exact (#F (enriched_functor_on_morphisms G _ _)).
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Enriched/ChangeOfBase.v:90]: This part of the construction should be split out into a separate definition. The proof of the axioms can then be made opaque using `Qed.` instead of `Defined.`.

File: UniMath/CategoryTheory/Enriched/ChangeOfBase.v [hunk 3]
```diff
@@ -0,0 +1,170 @@
...
+  apply (transportb (λ g, _ = _ · g) (nat_trans_ax (lax_monoidal_functor_μ F) _ _ (_ #, _))).
+  rewrite assoc.
+  apply cancel_postcomposition.
+  change (# F (is_z_isomorphism_mor ?f)) with (is_z_isomorphism_mor (functor_on_is_z_isomorphism F f)).
+  change (is_z_isomorphism_mor ?x) with (inv_from_z_iso (_,,x)).
+  apply pathsinv0.
+  rewrite assoc'.
+  apply z_iso_inv_on_right, z_iso_inv_on_left.
+  apply (lax_monoidal_functor_unital F).
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Enriched/ChangeOfBase.v:131]:
```suggestion
Qed.
```

File: UniMath/CategoryTheory/Enriched/ChangeOfBase.v [hunk 4]
```diff
@@ -0,0 +1,170 @@
...
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Enriched/ChangeOfBase.v:154]:
```suggestion
Qed.
```

File: UniMath/CategoryTheory/Enriched/ChangeOfBase.v [hunk 5]
```diff
@@ -0,0 +1,170 @@
...
+  use make_enriched_nat_trans.
+  - intro x.
+    exact (lax_monoidal_functor_ϵ F · #F (a x)).
+  - intros x y.
+    cbn.
+    rewrite <- lax_monoidal_functor_on_postcompose_underlying_morphism.
+    rewrite <- lax_monoidal_functor_on_precompose_underlying_morphism.
+    rewrite <- !(functor_comp F).
+    apply maponpaths.
+    apply enriched_nat_trans_ax.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Enriched/ChangeOfBase.v:167]: The proof of naturality should probably be made opaque, using `abstract(...)`.

File: UniMath/CategoryTheory/Monoidal/MonoidalCategories.v [hunk 6]
```diff
@@ -428,5 +428,58 @@ Proof.
...
+
+Corollary right_unitor_inv_of_tensor (X Y : Mon_V) : (id _ #⊗ nat_z_iso_to_trans_inv r_unitor _) = nat_z_iso_to_trans_inv r_unitor (X ⊗ Y)  · α ((_, _), _).
+Proof.
+  simpl.
+  rewrite tensor_z_isomorphism_right.
+  change (is_z_isomorphism_mor ?x) with (inv_from_z_iso (_,,x)).
+  apply pathsinv0.
+  apply z_iso_inv_on_right, z_iso_inv_on_left.
+  apply right_unitor_of_tensor.
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/MonoidalCategories.v:482]:
```suggestion
Qed.
```

File: UniMath/CategoryTheory/Monoidal/MonoidalCategories.v [hunk 7]
```diff
@@ -428,5 +428,58 @@ Proof.
...
+
+Corollary left_unitor_inv_of_tensor (X Y : Mon_V) : (nat_z_iso_to_trans_inv l_unitor _ #⊗ id _) · α ((_, _), _) = nat_z_iso_to_trans_inv l_unitor (X ⊗ Y).
+Proof.
+  simpl.
+  rewrite tensor_z_isomorphism_left.
+  change (is_z_isomorphism_mor ?x) with (inv_from_z_iso (_,,x)).
+  apply z_iso_inv_on_right, z_iso_inv_on_left.
+  apply pathsinv0.
+  apply left_unitor_of_tensor.
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/MonoidalCategories.v:472]:
```suggestion
Qed.
```

File: UniMath/CategoryTheory/Monoidal/MonoidalCategories.v [hunk 8]
```diff
@@ -428,5 +428,58 @@ Proof.
...
+
+Corollary left_unitor_inv_right_unitor_inv_of_unit : nat_z_iso_to_trans_inv l_unitor I = nat_z_iso_to_trans_inv r_unitor _.
+Proof.
+  apply (post_comp_with_z_iso_is_inj (is_z_isomorphism_is_inverse_in_precat (pr2 l_unitor _))).
+  apply (pathscomp0 (is_inverse_in_precat2 (is_z_isomorphism_is_inverse_in_precat (pr2 l_unitor _)))).
+  apply (transportb (λ f, id _ = is_z_isomorphism_mor _ · f) left_unitor_right_unitor_of_unit).
+  apply pathsinv0.
+  apply (is_inverse_in_precat2 (is_z_isomorphism_is_inverse_in_precat (pr2 r_unitor _))).
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/MonoidalCategories.v:462]:
```suggestion
Qed.
```

File: UniMath/CategoryTheory/Monoidal/MonoidalCategories.v [hunk 9]
```diff
@@ -428,5 +428,58 @@ Proof.
...
+
+Lemma monoidal_cat_triangle_eq_inv (X Y : Mon_V) : (nat_z_iso_to_trans_inv r_unitor X #⊗ id Y) · α ((X, I), Y) = (id X #⊗ nat_z_iso_to_trans_inv l_unitor Y).
+Proof.
+  cbn.
+  rewrite (tensor_z_isomorphism_right _ _ _ _ _ : #tensor _ = _).
+  rewrite (tensor_z_isomorphism_left _ _ _ _ _ : #tensor _ = _).
+  change (is_z_isomorphism_mor ?x) with (inv_from_z_iso (_,,x)).
+  apply z_iso_inv_on_right, z_iso_inv_on_left.
+  apply monoidal_cat_triangle_eq.
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/MonoidalCategories.v:453]:
```suggestion
Qed.
```

File: UniMath/CategoryTheory/Monoidal/MonoidalCategories.v [hunk 10]
```diff
@@ -428,5 +428,58 @@ Proof.
...
+Proof.
+  intros.
+  reflexivity.
+Defined.
+
+Lemma tensor_z_isomorphism_right : ∏ (x y z : Mon_V) (f : x --> y) (f_z_iso : is_z_isomorphism f), # tensor (id z #, is_z_isomorphism_mor f_z_iso) = is_z_isomorphism_mor (functor_on_is_z_isomorphism (functor_fix_fst_arg _ _ _ tensor z) f_z_iso).
+Proof.
+  intros.
+  reflexivity.
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/MonoidalCategories.v:443]:
```suggestion
Qed.
```

File: UniMath/CategoryTheory/Monoidal/MonoidalCategories.v [hunk 11]
```diff
@@ -428,5 +428,58 @@ Proof.
   apply monoidal_cat_triangle_eq.
 Defined.
 
+(* Corollaries for the inverses of left and right unitors. *)
+
+Lemma tensor_z_isomorphism_left : ∏ (x y z : Mon_V) (f : x --> y) (f_z_iso : is_z_isomorphism f), # tensor (is_z_isomorphism_mor f_z_iso #, id z) = is_z_isomorphism_mor (functor_on_is_z_isomorphism (functor_fix_snd_arg _ _ _ tensor z) f_z_iso).
+Proof.
+  intros.
+  reflexivity.
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/MonoidalCategories.v:437]:
```suggestion
Qed.
```

File: UniMath/CategoryTheory/Enriched/Enriched.v [hunk 12]
```diff
@@ -14,13 +14,43 @@ Require Import UniMath.CategoryTheory.Core.Functors.
...
+
+Section aux.
+
+Lemma bifunctor_on_morphisms_comm {A B C : category} (F : A ⊠ B ⟶ C) {a a' : A} {b b' : B} (f : a --> a') (g : b --> b') : #F (f #, id _) · #F (id _ #, g) = #F (id _ #, g) · #F (f #, id _).
+Proof.
+  rewrite <- !functor_comp.
+  change ((?x #, ?y) · (?z #, ?w)) with (x · z #, y · w).
+  rewrite !id_left, !id_right.
+  reflexivity.
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Enriched/Enriched.v:30]:
```suggestion
Qed.
```

File: UniMath/CategoryTheory/Enriched/Enriched.v [hunk 13]
```diff
@@ -14,13 +14,43 @@ Require Import UniMath.CategoryTheory.Core.Functors.
...
+
+Lemma bifunctor_comp_left {A B C : category} (F : A ⊠ B ⟶ C) {a a' a'' : A} {b : B} (f : a --> a') (g : a' --> a'') : #F (f · g #, id b) = #F (f #, id _) · #F (g #, id _).
+Proof.
+  rewrite <- (functor_comp F).
+  change ((?x #, ?y) · (?z #, ?w)) with (x · z #, y · w).
+  rewrite id_left.
+  reflexivity.
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Enriched/Enriched.v:38]:
```suggestion
Qed.
```

File: UniMath/CategoryTheory/Enriched/Enriched.v [hunk 14]
```diff
@@ -14,13 +14,43 @@ Require Import UniMath.CategoryTheory.Core.Functors.
...
+
+Lemma bifunctor_comp_right {A B C : category} (F : A ⊠ B ⟶ C) {a : A} {b b' b'' : B} (f : b --> b') (g : b' --> b'') : #F (id a #, f · g) = #F (id _ #, f) · #F (id _ #, g).
+Proof.
+  rewrite <- (functor_comp F).
+  change ((?x #, ?y) · (?z #, ?w)) with (x · z #, y · w).
+  rewrite id_left.
+  reflexivity.
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Enriched/Enriched.v:46]:
```suggestion
Qed.
```

File: UniMath/CategoryTheory/Enriched/Enriched.v [hunk 15]
```diff
@@ -240,4 +299,486 @@ Proof.
...
+
+Definition postcompose_underlying_morphism {A : enriched_precat} (x : A) {y z : A} (f : underlying_morphism y z) : enriched_cat_mor x y --> enriched_cat_mor x z := (nat_z_iso_to_trans_inv l_unitor _ · (f #⊗ id _) · enriched_cat_comp _ _ _).
+
+Definition precompose_identity {A : enriched_precat} {x y : A} : precompose_underlying_morphism _ (enriched_cat_id x) = id enriched_cat_mor x y.
+Proof.
+  unfold precompose_underlying_morphism.
+  rewrite assoc'.
+  apply (transportb (λ f, _ · f = _) (enriched_id_right _ _)).
+  apply (is_inverse_in_precat2 (is_z_isomorphism_is_inverse_in_precat (pr2 r_unitor _))).
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Enriched/Enriched.v:341]:
```suggestion
Qed.
```

File: UniMath/CategoryTheory/Enriched/Enriched.v [hunk 16]
```diff
@@ -240,4 +299,486 @@ Proof.
...
+
+Definition postcompose_identity {A : enriched_precat} {x y : A} : postcompose_underlying_morphism _ (enriched_cat_id y) = id enriched_cat_mor x y.
+Proof.
+  unfold postcompose_underlying_morphism.
+  rewrite assoc'.
+  apply (transportb (λ h, _ · h = _) (enriched_id_left _ _)).
+  apply (is_inverse_in_precat2 (is_z_isomorphism_is_inverse_in_precat (pr2 l_unitor _))).
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Enriched/Enriched.v:349]:
```suggestion
Qed.
```

File: UniMath/CategoryTheory/Enriched/Enriched.v [hunk 17]
```diff
@@ -240,4 +299,486 @@ Proof.
...
+  etrans.
+  {
+    apply cancel_precomposition.
+    apply nat_trans_ax_α.
+  }
+  rewrite assoc.
+  apply cancel_postcomposition.
+  apply pathsinv0.
+  apply right_unitor_inv_of_tensor.
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Enriched/Enriched.v:376]:
```suggestion
Qed.
```

File: UniMath/CategoryTheory/Enriched/Enriched.v [hunk 18]
```diff
@@ -240,4 +299,486 @@ Proof.
...
+  rewrite assoc'.
+  etrans.
+  {
+    apply cancel_precomposition.
+    apply nat_trans_ax_α.
+  }
+  rewrite assoc.
+  apply cancel_postcomposition.
+  apply monoidal_cat_triangle_eq_inv.
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Enriched/Enriched.v:396]:
```suggestion
Qed.
```

File: UniMath/CategoryTheory/Enriched/Enriched.v [hunk 19]
```diff
@@ -240,4 +299,486 @@ Proof.
...
+  etrans.
+  {
+    apply cancel_precomposition.
+    apply nat_trans_ax_α.
+  }
+  rewrite assoc.
+  rewrite (functor_id tensor).
+  apply cancel_postcomposition.
+  apply left_unitor_inv_of_tensor.
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Enriched/Enriched.v:421]:
```suggestion
Qed.
```

File: UniMath/CategoryTheory/Enriched/Enriched.v [hunk 20]
```diff
@@ -240,4 +299,486 @@ Proof.
...
+  rewrite assoc.
+  rewrite (functor_id tensor).
+  rewrite assoc'.
+  apply (transportb (λ h, h · _ = _) (left_unitor_inv_of_tensor _ _)).
+  apply (transportb (λ h, _ · h = _) (bifunctor_on_morphisms_comm tensor _ _)).
+  rewrite assoc.
+  apply cancel_postcomposition.
+  apply pathsinv0.
+  apply nat_trans_ax_l_unitor_inv.
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Enriched/Enriched.v:444]:
```suggestion
Qed.
```

File: UniMath/CategoryTheory/Enriched/Enriched.v [hunk 21]
```diff
@@ -240,4 +299,486 @@ Proof.
...
+  unfold precompose_underlying_morphism.
+  rewrite !assoc.
+  rewrite nat_trans_ax_r_unitor_inv.
+  match goal with [|- _ = _ · ?f · _ · _] => rewrite (assoc' _ f) end.
+  rewrite <- (functor_comp tensor).
+  change ((?x #, ?y) · (?z #, ?w)) with (x · z #, y · w).
+  rewrite id_left, id_right.
+  do 2 apply cancel_postcomposition.
+  apply left_unitor_inv_right_unitor_inv_of_unit.
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Enriched/Enriched.v:507]:
```suggestion
Qed.
```

File: UniMath/CategoryTheory/Enriched/Enriched.v [hunk 22]
```diff
@@ -240,4 +299,486 @@ Proof.
...
+  rewrite (enriched_assoc w).
+  rewrite !assoc.
+  do 2 apply cancel_postcomposition.
+  rewrite assoc'.
+  rewrite <- (functor_id tensor).
+  apply (transportb (λ h, _ = _ · h) (nat_trans_ax_α _ _ _)).
+  rewrite assoc.
+  apply cancel_postcomposition.
+  apply right_unitor_inv_of_tensor.
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Enriched/Enriched.v:536]:
```suggestion
Qed.
```

File: UniMath/CategoryTheory/Enriched/Enriched.v [hunk 23]
```diff
@@ -240,4 +299,486 @@ Proof.
...
+  match goal with [|- _ = _ · ?f · _ · _] => rewrite (assoc' _ f) end.
+  rewrite <- (functor_comp tensor).
+  change ((?x #, ?y) · (?z #, ?w)) with (x · z #, y · w).
+  rewrite id_left, id_right, <- (id_left (enriched_functor_on_morphisms F x y)).
+  change (?x · ?z #, ?y · ?w) with ((x #, y) · (z #, w)).
+  rewrite (functor_comp tensor).
+  rewrite !assoc'.
+  do 2 apply cancel_precomposition.
+  apply enriched_functor_on_comp.
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Enriched/Enriched.v:552]:
```suggestion
Qed.
```

File: UniMath/CategoryTheory/Enriched/Enriched.v [hunk 24]
```diff
@@ -240,4 +299,486 @@ Proof.
...
+  - intros x y.
+    rewrite postcompose_underlying_morphism_composite.
+    rewrite assoc.
+    rewrite enriched_nat_trans_ax.
+    rewrite assoc'.
+    rewrite pre_post_compose_commute.
+    rewrite assoc.
+    rewrite enriched_nat_trans_ax.
+    rewrite precompose_underlying_morphism_composite.
+    apply assoc'.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Enriched/Enriched.v:622]: It will be useful to make this part of the construction opaque.

File: UniMath/CategoryTheory/Enriched/Enriched.v [hunk 25]
```diff
@@ -240,4 +299,486 @@ Proof.
...
+Proof.
+  apply isaset_total2.
+  - apply impred_isaset.
+    intro.
+    apply homset_property.
+  - intro.
+    apply isasetaprop.
+    repeat (apply impred_isaprop; intro).
+    apply homset_property.
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Enriched/Enriched.v:639]:
```suggestion
Qed.
```

**Comment by nmvdw** [comment]
A suggestion (relating to Benedikt's comments): to make these changes easier, the definition `enriched_precat` (https://github.com/UniMath/UniMath/blob/master/UniMath/CategoryTheory/Enriched/Enriched.v#L119) can be improved. A definition `enriched_precat_laws` (which is just `(enriched_id_ax d) × (enriched_assoc_ax d).`) can be added, and then for each enriched precategory, you can then just add a separate statement (which is just `laws`) can be proven and ended with `Qed`.

File: UniMath/CategoryTheory/Enriched/Enriched.v [hunk 26]
```diff
@@ -240,4 +299,486 @@ Proof.
...
+
+Lemma enriched_nat_trans_assoc {A B : enriched_precat} {F G H K : enriched_functor A B} (f : enriched_nat_trans F G) (g : enriched_nat_trans G H) (h : enriched_nat_trans H K) : enriched_nat_trans_comp f (enriched_nat_trans_comp g h) = enriched_nat_trans_comp (enriched_nat_trans_comp f g) h.
+Proof.
+  apply enriched_nat_trans_eq.
+  intro x.
+  cbn.
+  rewrite postcompose_underlying_morphism_composite.
+  apply assoc.
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Enriched/Enriched.v:648]:
```suggestion
Qed.
```

File: UniMath/CategoryTheory/Enriched/Enriched.v [hunk 27]
```diff
@@ -240,4 +299,486 @@ Proof.
...
+
+Definition enriched_functor_category (A B : enriched_precat) : category.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Enriched/Enriched.v:650]: It will be useful to make part of the construction opaque.

File: UniMath/CategoryTheory/Monoidal/MonoidalCategories.v [hunk 28]
```diff
@@ -313,11 +313,11 @@ Section coherence_lemmas.
...
-Local Definition I        : Mon_V                  := monoidal_cat_unit Mon_V.
-Local Definition tensor   : Mon_V ⊠ Mon_V ⟶ Mon_V := monoidal_cat_tensor Mon_V.
-Local Definition α        : associator tensor      := monoidal_cat_associator Mon_V.
-Local Definition l_unitor : left_unitor tensor I   := monoidal_cat_left_unitor Mon_V.
-Local Definition r_unitor : right_unitor tensor I  := monoidal_cat_right_unitor Mon_V.
+Let I        : Mon_V                  := monoidal_cat_unit Mon_V.
+Let tensor   : Mon_V ⊠ Mon_V ⟶ Mon_V := monoidal_cat_tensor Mon_V.
+Let α        : associator tensor      := monoidal_cat_associator Mon_V.
+Let l_unitor : left_unitor tensor I   := monoidal_cat_left_unitor Mon_V.
+Let r_unitor : right_unitor tensor I  := monoidal_cat_right_unitor Mon_V.
```
Comment (rmatthes) [inline UniMath/CategoryTheory/Monoidal/MonoidalCategories.v:320]: I think there should be a global discussion about the respective advantages of "Local Definition" and "Let". What is the reason for the change in this place?

**Comment by rmatthes** [comment]
I have been asked by @benediktahrens to provide a review for this PR. My feeling is that this changes the status of the development of enriched category theory in UniMath (which I welcome in principle), which therefore also requires a more rigorous review of the already existing code. Anyway, `coqwc` presently (before merging this PR) only sees 120 lines of definitions and 37 lines of proofs in the whole `Enriched` directory. And to the best of my knowledge, these definitions are not used elsewhere in UniMath. In particular, there is no validation of this code against the rest of UniMath, such as verifying that enriched categories are indeed a generalization of ordinary categories (in which sense will this hold in the UniMath library and not only mathematically?). It does not seem right either that composition is not given in diagrammatic order, which is the standard in UniMath. Previous to the PR, there were only three declared coercions. This is probably not enough (there are maybe too many pr1 already in that code, and this could become much worse when working with the definitions in application scenarios). The code is not so beautiful either: there are still `dirprod` and `tpair` in definitions, and axioms are stated with placeholders `_`.

The PR proposes more coercions and many more lines of verification, but still no validation w.r.t to the UniMath environment. I think that the problems at the base should be addressed at the same time and not later when there is much more code to "tame".

**Comment by rmatthes** [comment]
I cite from `Categories.v`:
 `Definition precategory_id_comp (C : precategory_ob_mor) : UU
  :=
    (∏ c : C, c --> c) (* identities *)
      ×
    (∏ a b c : C, a --> b -> b --> c -> a --> c). (* composition *)`
Vertical composition in bicategories follows the same pattern.

By the way, it could be worth defining enrichment over bicategories instead of the special case of over monoidal categories.

**Comment by benediktahrens** [comment]
@rmatthes : Thanks a lot for forming and sharing thoughts about this PR and the state of enriched categories in UniMath.
- I agree that the existing code needs to be improved to become usable at scale.
- I also agree that a validation (in the form of an equivalence of types between categories and categories enriched over set?) would be important for the sake of completeness. (I don't see any obstacle to constructing such an equivalence, it just needs to be done.)

@umedaikiti : in case you are interested in working on enriched categories in UniMath, and in case you are willing to spend a little bit of effort on getting the basic definitions into shape, I am very happy to help. I have already given feedback to your code - in case you have questions or comments, please let me know!

**Comment by umedaikiti** [comment]
Thanks for the reviews. Yes, I am happy to work on the improvement.

- I agree that the code should be more beautiful.
- The equivalence between ordinary categories and Set-enriched categories would be easily proved if we have the cartesian monoidal category of sets. I know that the category of set is defined under `UniMath/CategoryTheory/categories/HSET/` together with the terminal object and binary products, but it seems that the cartesian monoidal category is not defined. I believe that the (theoretically) best way is to define the general cartesian monoidal category and then instantiate it to `HSET`. Unfortunately the general cartesian monoidal category #1031 is left unmerged. I don't know yet how much work is needed to fix #1031, but I will try to take a look.
- I prefer the current order of composition rather than the diagrammatic order because the standard order in the enriched category theory is the current one and reversing it would be a little bit confusing especially when the monoidal category is not symmetric. For example, when we define left/right modules in the enriched category theory (see e.g. https://doi.org/10.1016/j.aim.2015.11.012), "left" and "right" must be reversed if we reverse the composition order. I think that this leads to inconsistent terminology between UniMath and the standard mathematics.

File: UniMath/CategoryTheory/Monoidal/MonoidalCategories.v (hunk 28 above)
Comment (umedaikiti) [reply UniMath/CategoryTheory/Monoidal/MonoidalCategories.v:320]: I intended to use these names as aliases that are not visible outside the section at all. However, I found that the name of `Local Definition tensor` is visible as `MonoidalCategories.tensor` when we use a lemma like `tensor_comp_left`. I think that there should not be names like `MonoidalCategories.tensor` because these are just accessor functions applied to `Mon_V`.

**Comment by rmatthes** [comment]
I only comment on the last point about the order of composition. I did not find it easy to read the UniMath library with the compositions turned around. I had to accept this decision by those who created the library. But the library does not deviate from standard mathematical **notions**. Even if left and right whiskering are rather called pre_whisker and post_whisker, respectively (which is even more suggestive as notation), they properly map to lwhisker and rwhisker in the notion of bicategories. Regardless of composition order or other notational/presentational devices, no one would exchange the notions of left and right adjoint either. In the development of monads, there is the file `LModules.v` with left modules for monads. They also properly correspond to the left modules as published by Hirschowitz and Maggesi. However, the development makes use of a legacy notation □ (I show one line from the output of `git grep □`):
`UniMath/CategoryTheory/Core/Functors.v:Notation "G □ F" := (functor_composite F G) (at level 35, only parsing) : cat.`
So, on the level of **notation**, the order of composition is again turned around (with respect to the standard UniMath notation for functor composition: `Notation "F ∙ G" := (functor_composite F G) : cat.` whose symbol looks different in Emacs from here.

The grep output is not vast at all and also shows uses of □ for different purposes. So, it should at least be very easy to remove this identified (legacy) inconsistency in notation. And no new one should enter, and as I argued before, the "lonesome" file `Enriched.v` was not considered a problem, but when making more out of it, the usual standards should apply.

**Comment by benediktahrens** [comment]
@umedaikiti : Thanks a lot for implementing the suggestions!

For me, this PR represents a definite improvement, even though it does not yet fix all the problems identified by @rmatthes. Hence, I am very happy to merge this PR if @umedaikiti agrees - recall that this PR was marked as "draft" by @umedaikiti, and I only marked it as "ready for review" to be able to comment on it.

**Comment by umedaikiti** [comment]
I have no objection to merging this PR. I will probably prove the equivalence between ordinary and Set-enriched categories later, but this can be discussed as a separate issue or PR.
